US05102901
1.2 g (6.0 mmol) of 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid were mixed with 15 ml of thionyl chloride and boiled for 2.5 hours. The excess of thionyl chloride was distilled off in vacuo, and toluene was added. The mixture was evaporated in vacuo again, and the residue was dissolved in 20 ml of acetonitrile. A solution of 2.2 g (6.0 mmol) of 5-methyl-4-(methylamino)methyl-1-triphenylmethyl-1H-imidazole and 1.7 ml (12 mmol) of triethyl amine in 25 ml of acetonitrile was added, the mixture was boiled for 1 hour, and evaporated in vacuo. The residue was shaken with methylene chloride and 2 N NaOH. The organic layer was washed with water and evaporated in vacuo. The residue was chromatographed on silicagel using methylene chloride/methanol (95/5) as an eluent. After evaporating the desired fractions 2.0 g of N-methyl, N-[(5-methyl-1-triphenylmethyl-1H-imidazol-4-yl)methyl]-5,6-dihydro-4H-pyrrolo [3,2,1-ij]quinoline-1-carboxamide were obtained. This product was treated as described in Example I to remove the triphenylmethyl group, and purified. 0.46 g of the desired title compound were obtained.

reactant | 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid | 6.0 mmol, 1.2 g | C1(=CN2CCCC3=CC=CC1=C23)C(=O)O | C12H11NO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-methyl-4-(methylamino)methyl-1-triphenylmethyl-1H-imidazole | 6.0 mmol, 2.2 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CNC | C25H25N3
reactant | triethyl amine | 12 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-[(5-methyl-1-triphenylmethyl-1H-imidazol-4-yl)methyl]-5,6-dihydro-4H-pyrrolo [3,2,1-ij]quinoline-1-carboxamide | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CNC(=O)C1=CN2CCCC3=CC=CC1=C23 | C36H32N4O
